US08476286B2
Synthesis of 1-[3-(2-hydroxy-ethoxy)-benzyl]-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one
To a solution of 76 mg (0.14 mmol) of 4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1-{3-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzyl}-1H-quinazolin-2-one (Example RT-6) in MeOH (10 ml) is added 10 wt % Dowex-50 and the mixture is stirred vigorously for 3 days. The reaction mixture is filtered and the solvent is removed in vacuo. The residue is dissolved in CH2Cl2 and extracted with water and then brine, dried (MgSO4), filtered and evaporated in vacuo to provide a yellow oil which is purified by preparative TLC of silica gel using dichloromethane/ether (1:1) to provide the title compound as a yellow oil. Yield: 11 mg (17%).

reactant | 4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1-{3-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzyl}-1H-quinazolin-2-one | 0.14 mmol, 76 mg | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)CC1=CC(=CC=C1)OCCOC1OCCCC1)=O | C34H36N2O5
solvent | MeOH | 10 ml | CO | CH4O
product | 1-[3-(2-hydroxy-ethoxy)-benzyl]-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | OCCOC=1C=C(CN2C(N=C(C3=CC(=CC=C23)OCC#C)C2=CC=C(C=C2)C(C)C)=O)C=CC1 | C29H28N2O4
